US20010056188A1
1) 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile
To a solution of 4-chlorophenylsulfonylacetonitrile (1.10 g, 5.10 mmol) in dry acetone (12 ml) first dry potassium carbonate (1.41 g, 10.2 mmol) and then 3,5-bis(trifluoromethyl)phenyl isothiocyanate (1,44 g, 5.31 mmol) were added. The resulting mixture was stirred at room temperature under nitrogen for 1 h, and then filtered. To the filtrate a solution of sodium hydrogencarbonate (0.86 g) in water (15 ml) and methyl iodide (0.945 ml, 15.3 mmol) was added. The mixture was stirred at room temperature for 3.5 h. Then pH was adjusted to ˜4 with 1N HCl. The precipitate was filtered off and washed with water to give 2.39 g (93%) of the title compound. Recrystallisation could be done from ethyl acetate/heptane 1:3. Mp 150.5-152.5° C. 1H NMR (300 MHz, CDCl3): δ=2.25 (s, 3H), 7.57 (d, 2H), 7.79 (s, 2H), 7.83 (s, 1H), 7.88 (d, 2H), 10.0 (br s, 1H); MA calc for C18H11CIF6N2O2S2: C43.17%, H 2.21%, N 5.59%. Found: C43.25%, H 2.16%, N 5.59%.

reactant | 4-chlorophenylsulfonylacetonitrile | 5.10 mmol, 1.10 g | ClC1=CC=C(C=C1)S(=O)(=O)CC#N | C8H6ClNO2S
reactant | potassium carbonate | 10.2 mmol, 1.41 g | C([O-])([O-])=O.[K+].[K+]
reactant | 3,5-bis(trifluoromethyl)phenyl isothiocyanate | 5.31 mmol, 1,44 g | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=S)(F)F | C9H3F6NS
reactant | sodium hydrogencarbonate | 0.86 g | C(O)([O-])=O.[Na+]
reactant | methyl iodide | 15.3 mmol, 0.945 ml | CI | CH3I
reactant | HCl | 1N | Cl | ClH
solvent | acetone | 12 ml | CC(=O)C | C3H6O
solvent | water | 15 ml | O | H2O
product | 3-(3,5-Bis(trifluoromethyl)phenylamino)-2-(4-chlorophenylsulfonyl)-3-methylsulfanyl-2-propenenitrile | 2.39 g, 93% | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(=C(C#N)S(=O)(=O)C1=CC=C(C=C1)Cl)SC)(F)F | C18H11ClF6N2O2S2
